US09193935B2
To a solution of (4-(bromomethyl)-2-ethoxyphenoxy)(tert-butyl)dimethylsilane (14.5 g, 41.8 mmol, 1.0 equiv.) in toluene (84 mL), PPh3 (11.0 g, 41.8 mmol, 1.0 equiv.) was added. The mixture was stirred at 25° C. for 20 h and concentrated to yield 25.1 g (99%) of (4-(tert-Butyldimethylsilyloxy)-3-ethoxyphenyl)methyltriphenylphosphonium bromide as a white solid.

reactant | (4-(bromomethyl)-2-ethoxyphenoxy)(tert-butyl)dimethylsilane | 41.8 mmol, 14.5 g, 1.0 equiv. | BrCC1=CC(=C(O[Si](C)(C)C(C)(C)C)C=C1)OCC | C15H25BrO2Si
reactant | PPh3 | 41.8 mmol, 11.0 g, 1.0 equiv. | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | toluene | 84 mL | C1(=CC=CC=C1)C | C7H8
product | (4-(tert-Butyldimethylsilyloxy)-3-ethoxyphenyl)methyltriphenylphosphonium bromide | 25.1 g, 99% | [Br-].[Si](C)(C)(C(C)(C)C)OC1=C(C=C(C=C1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)OCC | InChI=1S/C33H40O2PSi.BrH/c1-7-34-32-25-27(23-24-31(32)35-37(5,6)33(2,3)4)26-36(28-17-11-8-12-18-28,29-19-13-9-14-20-29)30-21-15-10-16-22-30;/h8-25H,7,26H2,1-6H3;1H/q+1;/p-1
